US03959322
Reflux a mixture of 2-cetylcyclopentane-1,3-dione (10.1 g), 6-m-methoxyphenylhex-1-en-3-one (6.0 g) and 0.02% methanolic potassium hydroxide solution (120 cc) for 26 hours and then cool. Dissolve the residue obtained after removal of solvent under reduced pressure in a mixture of benzene (50 cc) and ether (50 cc), and wash the solution in turn with sodium carbonate solution, 10% aqueous sulfuric acid and water. Remove the solvent by evaporation under reduced pressure to obtain as residue crude 2-cetyl-2-(6-m-methoxyphenyl-3-oxohexyl)-1,3-cyclopentanedione (11.4 g).

reactant | 2-cetylcyclopentane-1,3-dione | 10.1 g | C(CCCCCCCCCCCCCCC)C1C(CCC1=O)=O | C21H38O2
reactant | 6-m-methoxyphenylhex-1-en-3-one | 6.0 g | COC=1C=C(C=CC1)CCCC(C=C)=O | C13H16O2
solvent | potassium hydroxide | 120 cc | [OH-].[K+]
product | 2-cetyl-2-(6-m-methoxyphenyl-3-oxohexyl)-1,3-cyclopentanedione | 11.4 g | C(CCCCCCCCCCCCCCC)C1(C(CCC1=O)=O)CCC(CCCC1=CC(=CC=C1)OC)=O | C34H54O4
